US08232312B2
1-methyl-6-nitro-1H-indole-3-carbonitrile
1.6 g 6-nitro-1H-indole-3-carbonitrile are dissolved in 45 ml of tetrahydrofuran, combined with 1 g potassium-tert.-butoxide and stirred for 30 minutes. Then a solution of 560 μl methyl iodide in 5 ml of tetrahydrofuran is slowly added dropwise and the mixture is stirred for 5 hours. The solvents are eliminated in vacuo, water is added and the pH is adjusted to 4 by the addition of citric acid. The solid is suction filtered and washed with water and some cold methanol.

reactant | 6-nitro-1H-indole-3-carbonitrile | 1.6 g | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C#N | C9H5N3O2
reactant | potassium tert.-butoxide | 1 g | [K].CC(C)([O-])C
reactant | methyl iodide | 560 μl | CI | CH3I
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-methyl-6-nitro-1H-indole-3-carbonitrile | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H7N3O2
